US08034812B2
Production of 1-methyl-1H-1,2,3-triazole-5-carboxylic acid
To a solution of ethyl 1-methyl-1H-1,2,3-triazole-5-carboxylate (1.15 g, 7.41 mmol) in methanol (17 mL) was added 1N sodium hydroxide (11.5 mL), and the mixture was stirred at room temperature for 1 hr. Methanol was evaporated under reduced pressure, 1N hydrochloric acid (12 mL) was added to the mixture, the precipitated crystals were collected by filtration and washed with water. The crystals were vacuum dried at 90° C. to give the title compound (148 mg, 16%) as a white powder.

reactant | ethyl 1-methyl-1H-1,2,3-triazole-5-carboxylate | 7.41 mmol, 1.15 g | CN1N=NC=C1C(=O)OCC | C6H9N3O2
reactant | sodium hydroxide | 1N, 11.5 mL | [OH-].[Na+]
solvent | methanol | 17 mL | CO | CH4O
product | 1-methyl-1H-1,2,3-triazole-5-carboxylic acid | 148 mg, 16% | CN1N=NC=C1C(=O)O | C4H5N3O2
